US05091528
5,7-Dimethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine.
The title compound is synthesized from 5-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine or from 7-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine and methyl magnesium bromide using the method illustrated in Example 37.

reactant | 5-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | CC1=C(C=CC2=C1NC(CO2)=O)[N+](=O)[O-] | C9H8N2O4
reactant | 7-methyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | CC1=CC2=C(NC(CO2)=O)C=C1[N+](=O)[O-] | C9H8N2O4
reactant | methyl magnesium bromide | C[Mg]Br
product | 5,7-Dimethyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | CC1=C(C(=CC2=C1NC(CO2)=O)C)[N+](=O)[O-] | C10H10N2O4
